US08227431B2
Preparation of ((2R,4R)-3-acetoxy-5-(6-(cyclopropylmethylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate
To a stirred solution of ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 0.30 g, 0.64 mmol) in ethanol (about 5 ml) was added 1,8-Diazabicyclo[5.4.0]undec-7-ene (about 0.14 ml, 0.97 mmol) and aminomethyl cyclopropane hydrochloride (about 0.14 g, 1.2 mmol) at room temperature and refluxed for about 30 minutes. Completion of the reaction monitored by thin-layer chromatography, water added to the reaction mixture and the aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with water, brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 5% methanol in dichloromethane as eluent furnished title compound (0.23 g) as a colorless solid. Yield: 67%; 1H NMR (300 MHz, CDCl3): δ 8.39 (s, 1H), 8.06-8.04 (m, 2H), 7.99 (d, 1H, J=3.6 Hz), 7.60-7.55 (m, 1H), 7.47-7.42 (m, 2H), 6.54 (d, 1H, J=23.1 Hz), 5.93 (bs, 1H), 4.84-4.78 (m, 2H), 4.49-4.42 (m, 1H), 3.49 (bs, 2H), 2.16 (s, 3H), 1.89 (d, 3H, J=2.4 Hz), 1.44 (d, 3H, J=23.1 Hz), 1.19-1.08 (m, 1H), 0.59-0.55 (m, 2H), 0.34-0.31 (m, 2H); ES Mass: [M+1]+ 498 (100%), [M+Na] 520 (45%); HPLC: 96%.

reactant | ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.64 mmol, about 0.30 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)Cl | C21H20ClFN4O5
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.97 mmol, about 0.14 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | aminomethyl cyclopropane hydrochloride | 1.2 mmol, about 0.14 g | Cl.NCC1CC1
reactant | water | O | H2O
solvent | ethanol | about 5 ml | C(C)O | C2H6O
product | ((2R,4R)-3-acetoxy-5-(6-(cyclopropylmethylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate | 0.23 g, Yield: 67% | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)NCC1CC1 | C25H28FN5O5
